US06034275
Ea) A mixture of 2.77 g of 4-hydroxyphenyl-(4-bromo-phenyl)-methanone and 50 ml of hexamethyidisilazane is heated under reflux for 4 h., then concentrated and dried. The resulting 4-trimethylsilyloxyphenyl-(4-bromo-phenyl)-methanone is dissolved in 60 ml of toluene and treated at room temperature under argon with 11 ml of methylmagnesium chloride solution (22% in THF). The mixture is boiled under reflux. After cooling the mixture is treated with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic phases are washed with saturated sodium chloride solution and dried. After evaporation of the ethyl acetate extracts there are obtained 3.36 g of (RS)-4-[1-(4-bromo-phenyl)-1-hydroxy-ethyl]-phenol, MS: m/e 293 (M+H+, 1Br).

reactant | 4-hydroxyphenyl-(4-bromo-phenyl)-methanone | 2.77 g | OC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)Br | C13H9BrO2
reactant | hexamethyidisilazane | 50 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | (RS)-4-[1-(4-bromo-phenyl)-1-hydroxy-ethyl]-phenol | 3.36 g | BrC1=CC=C(C=C1)C(C)(O)C1=CC=C(C=C1)O | C14H13BrO2
